************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: trim_res_bg_sl_fL
* View Name:     schematic
* Netlisted on:  Jun 21 02:01:55 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lf11is
* Cell Name:    rnpolyh_pcell_0
* View Name:    schematic
************************************************************************

.SUBCKT rnpolyh_pcell_0 B MINUS PLUS w=500n l=2u m=1
*.PININFO B:B MINUS:B PLUS:B
RR_1_0 PLUS MINUS $SUB=B $[rnpolyh] $W=w $L=l
RR_0_0 PLUS MINUS $SUB=B $[rnpolyh] $W=w $L=l
.ENDS

************************************************************************
* Library Name: lf11is
* Cell Name:    rnpolyh_pcell_1
* View Name:    schematic
************************************************************************

.SUBCKT rnpolyh_pcell_1 B MINUS PLUS w=500n l=2u m=1
*.PININFO B:B MINUS:B PLUS:B
RR_0_0 PLUS MINUS $SUB=B $[rnpolyh] $W=w $L=l
.ENDS

************************************************************************
* Library Name: lf11is
* Cell Name:    rnpolyh_pcell_2
* View Name:    schematic
************************************************************************

.SUBCKT rnpolyh_pcell_2 B MINUS PLUS w=500n l=2u m=1
*.PININFO B:B MINUS:B PLUS:B
RR_0_85 MINUS int_0_85 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_84 int_0_84 int_0_85 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_83 int_0_84 int_0_83 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_82 int_0_82 int_0_83 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_81 int_0_82 int_0_81 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_80 int_0_80 int_0_81 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_79 int_0_80 int_0_79 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_78 int_0_78 int_0_79 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_77 int_0_78 int_0_77 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_76 int_0_76 int_0_77 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_75 int_0_76 int_0_75 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_74 int_0_74 int_0_75 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_73 int_0_74 int_0_73 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_72 int_0_72 int_0_73 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_71 int_0_72 int_0_71 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_70 int_0_70 int_0_71 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_69 int_0_70 int_0_69 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_68 int_0_68 int_0_69 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_67 int_0_68 int_0_67 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_66 int_0_66 int_0_67 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_65 int_0_66 int_0_65 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_64 int_0_64 int_0_65 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_63 int_0_64 int_0_63 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_62 int_0_62 int_0_63 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_61 int_0_62 int_0_61 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_60 int_0_60 int_0_61 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_59 int_0_60 int_0_59 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_58 int_0_58 int_0_59 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_57 int_0_58 int_0_57 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_56 int_0_56 int_0_57 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_55 int_0_56 int_0_55 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_54 int_0_54 int_0_55 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_53 int_0_54 int_0_53 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_52 int_0_52 int_0_53 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_51 int_0_52 int_0_51 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_50 int_0_50 int_0_51 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_49 int_0_50 int_0_49 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_48 int_0_48 int_0_49 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_47 int_0_48 int_0_47 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_46 int_0_46 int_0_47 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_45 int_0_46 int_0_45 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_44 int_0_44 int_0_45 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_43 int_0_44 int_0_43 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_42 int_0_42 int_0_43 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_41 int_0_42 int_0_41 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_40 int_0_40 int_0_41 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_39 int_0_40 int_0_39 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_38 int_0_38 int_0_39 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_37 int_0_38 int_0_37 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_36 int_0_36 int_0_37 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_35 int_0_36 int_0_35 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_34 int_0_34 int_0_35 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_33 int_0_34 int_0_33 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_32 int_0_32 int_0_33 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_31 int_0_32 int_0_31 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_30 int_0_30 int_0_31 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_29 int_0_30 int_0_29 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_28 int_0_28 int_0_29 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_27 int_0_28 int_0_27 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_26 int_0_26 int_0_27 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_25 int_0_26 int_0_25 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_24 int_0_24 int_0_25 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_23 int_0_24 int_0_23 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_22 int_0_22 int_0_23 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_21 int_0_22 int_0_21 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_20 int_0_20 int_0_21 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_19 int_0_20 int_0_19 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_18 int_0_18 int_0_19 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_17 int_0_18 int_0_17 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_16 int_0_16 int_0_17 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_15 int_0_16 int_0_15 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_14 int_0_14 int_0_15 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_13 int_0_14 int_0_13 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_12 int_0_12 int_0_13 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_11 int_0_12 int_0_11 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_10 int_0_10 int_0_11 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_9 int_0_10 int_0_9 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_8 int_0_8 int_0_9 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_7 int_0_8 int_0_7 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_6 int_0_6 int_0_7 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_5 int_0_6 int_0_5 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_4 int_0_4 int_0_5 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_3 int_0_4 int_0_3 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_2 int_0_2 int_0_3 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_1 int_0_2 int_0_1 $SUB=B $[rnpolyh] $W=w $L=l
RR_0_0 PLUS int_0_1 $SUB=B $[rnpolyh] $W=w $L=l
.ENDS

************************************************************************
* Library Name: REF_GEN
* Cell Name:    trim_res_bg_sl_fL
* View Name:    schematic
************************************************************************

.SUBCKT trim_res_bg_sl_fL P1 P2 REF S0 S1 S2 S3 S4 S5 S6 S7
*.PININFO P1:B P2:B REF:B S0:B S1:B S2:B S3:B S4:B S5:B S6:B S7:B
XR13 REF REF REF / rnpolyh_pcell_0 l=10u w=500n m=2
XR10 REF S0 net1 / rnpolyh_pcell_1 l=10u w=500n m=1
XR12 REF net1 P1 / rnpolyh_pcell_2 l=10u w=500n m=1
XR8 REF S7 S6 / rnpolyh_pcell_1 l=10u w=500n m=1
XR7 REF S6 S5 / rnpolyh_pcell_1 l=10u w=500n m=1
XR6 REF S5 S4 / rnpolyh_pcell_1 l=10u w=500n m=1
XR5 REF S4 S3 / rnpolyh_pcell_1 l=10u w=500n m=1
XR3 REF S2 S1 / rnpolyh_pcell_1 l=10u w=500n m=1
XR2 REF S1 S0 / rnpolyh_pcell_1 l=10u w=500n m=1
XR11 REF P2 S7 / rnpolyh_pcell_1 l=10u w=500n m=1
XR4 REF S3 S2 / rnpolyh_pcell_1 l=10u w=500n m=1
.ENDS

